US06277987B1
A solution of the title A compounds, 3-(4-bromobutyl)-1,2,3,4-tetrahydro-1-methyl-2,4-dioxoquinazoline and 3-(4-chlorobutyl)-1,2,3,4-tetrahydro-1-methyl-2,4-dioxoquinazoline (1:1 mixture; 2.35 g, 8.13 mmol) in 30 mL of methyl ethyl ketone is treated with sodium iodide (2.64 g, 17.62 mmol) at RT. The reaction is heated at reflux for 16 h, then cooled and the solvent is evaporated under reduced pressure. The residue is partitioned between 200 mL of ethyl acetate and 5 mL of water. The organic solution is washed with 10 mL of 1% aqueous sodium sulfite and 10 mL of brine, dried over anhydrous MgSO4, and concentrated to give 3.10 g (100%) of 3-(4-iodobutyl)-1,2,3,4-tetrahydro-1-methyl-2,4-dioxoquinazoline as a white solid: m.p. 105-107° C.; NMR (CDCl3) 1.75-1.95 (m, 4H), 3.22 (t, 2H, J=6.8), 3.59 (s, 3H), 4.11 (t, 2H, J=7.1), 7.17-7.28 (m, 2H), 7.67 (dt, 1H, J=1.6, 7.9), 8.21 (dd, 1H, J=1.5, 7.9); IR 1702, 1658; ESI-MS 359 (M++1).

reactant | 3-(4-bromobutyl)-1,2,3,4-tetrahydro-1-methyl-2,4-dioxoquinazoline | BrCCCCN1C(N(C2=CC=CC=C2C1=O)C)=O | C13H15BrN2O2
reactant | 3-(4-chlorobutyl)-1,2,3,4-tetrahydro-1-methyl-2,4-dioxoquinazoline | 8.13 mmol, 2.35 g | ClCCCCN1C(N(C2=CC=CC=C2C1=O)C)=O | C13H15ClN2O2
reactant | sodium iodide | 17.62 mmol, 2.64 g | [I-].[Na+]
solvent | methyl ethyl ketone | 30 mL | C(C)C(=O)C | C4H8O
product | 3-(4-iodobutyl)-1,2,3,4-tetrahydro-1-methyl-2,4-dioxoquinazoline | 3.10 g, 100% | ICCCCN1C(N(C2=CC=CC=C2C1=O)C)=O | C13H15IN2O2
